US07728025B2
(Step 1) Production of 4-benzyloxy-3-fluoroaniline
2.91 ml of hydrazine monohydrate and about 1 g of developed Raney nickel catalyst were added to a methanol (60 ml) solution of 4.94 g of 4-benzyloxy-3-fluoronitrobenzene, and the reaction liquid was stirred at room temperature for 2 hours. The catalyst was removed through filtration through Celite, and the solvent was evaporated away under reduced pressure to obtain the entitled compound as a yellow oily substance.

reactant | hydrazine monohydrate | 2.91 ml | O.NN
reactant | 4-benzyloxy-3-fluoronitrobenzene | 4.94 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C13H10FNO3
catalyst | Raney nickel | about 1 g | [Ni] | Ni
solvent | methanol | 60 ml | CO | CH4O
product | 4-benzyloxy-3-fluoroaniline | C(C1=CC=CC=C1)OC1=C(C=C(N)C=C1)F | C13H12FNO
